US07338958B2
Production and Separation into the Diastereomers of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-methyl sulfoximide (Example 1.3)
1.65 g (3.30 mmol) of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-methyl sulfoximide in 6.5 ml of ethanol is mixed with 19.1 ml (6.69 mmol) of a 0.35 molar solution of NaOEt in ethanol and stirred under reflux for 5 hours. The batch is stirred overnight at room temperature and then added to a saturated NaCl solution. It is extracted with ethyl acetate, and the combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (DCM/EtOH 9:1). 0.95 g (2.22 mmol, corresponding to 67% of theory) of the product is obtained.

reactant | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-methyl sulfoximide | 3.30 mmol, 1.65 g | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)N[C@@H](C(C)(C)O)C | C19H26BrN5O4S
reactant | NaOEt | CC[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | ethanol | 6.5 ml | C(C)O | C2H6O
product | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-methyl sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)C)N[C@@H](C(C)(C)O)C | C16H22BrN5O2S
